US08008303B2
Biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester
A mixture of 3-bromo-benzoic acid (4.02 g) and 4-ethoxycarbonyl-phenyl boronic acid (3.88 g) in DME (100 ml) containing cesium carbonate (6.5 g) and tetrakis(triphenylphosphine) palladium (0) (1.15 g) was heated to reflux for 24 h. The cooled mixture was then filtered through celite and evaporated giving the crude title compound as a white solid which was used without purification in the next synthetic step.

reactant | 3-bromo-benzoic acid | 4.02 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 4-ethoxycarbonyl-phenyl boronic acid | 3.88 g | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | cesium carbonate | 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 100 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 1.15 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester | C(C)OC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C16H14O4
